US06025375
To a solution of sodium hydride (1.0 g, 60% in oil) in N,N-dimethylformamide (50 ml) was added trimethylsulfonium iodide (6.1 g) at ambient temperature under N2 and stirred for 20 minutes. To the solution was added dropwise a solution of trans-1-ethoxycarbonyl-2-(3-methoxyphenyl)ethylene (5.2 g) in N,N-dimethylformamide (10 ml) and stirred for 2 hours. The reaction mixture was poured into a mixture of ethyl acetate (100 ml) and 1N-hydrochloric acid (100 ml). The organic layer was washed with water, saturated sodium bicarbonate aqueous solution, and brine, and then dried over magnesium sulfate. The solution was evaporated and the residue was chromatographed (hexane:ethyl acetate=4:1) to give trans-1-ethoxycarbonyl-2-(3-methoxyphenyl)cyclopropane (1.0 g).

reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | trimethylsulfonium iodide | 6.1 g | [I-].C[S+](C)C
reactant | trans-1-ethoxycarbonyl-2-(3-methoxyphenyl)ethylene | 5.2 g | C(C)OC(=O)\C=C\C1=CC(=CC=C1)OC | C12H14O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | trans-1-ethoxycarbonyl-2-(3-methoxyphenyl)cyclopropane | 1.0 g | C(C)OC(=O)[C@H]1[C@@H](C1)C1=CC(=CC=C1)OC | C13H16O3
